US04587331
A solution of 2.0 g of L-arabinose in 5 ml of methanol and 5 ml of hydrazine hydrate was stirred overnight and then evaporated in vacuo. A 5 ml portion of methanol was added to the residue. After standing overnight the oil solidified. The solid was collected and dried, giving 1.5 g of L-arabinose hydrazone.

reactant | L-arabinose | 2.0 g | O=C[C@H](O)[C@@H](O)[C@@H](O)CO | C5H10O5
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | methanol | 5 ml | CO | CH4O
product | L-arabinose hydrazone | 1.5 g | C([C@H](O)[C@@H](O)[C@@H](O)CO)=NN | C5H12N2O4
